US07470679B2
(S)-diethyl 2-((4-(acetoxymethyl)-7-bromo-3-chloro-1H-indazol-5-yl)methyl)succinate
(S)-Diethyl 2-((4-(acetoxymethyl)-7-bromo-1H-indazol-5-yl)methyl)succinate (400 mg, 0.879 mmol) was dissolved in N,N-dimethylformamide (5.0 ml). N-Chlorosuccinimide (130 mg, 0.974 mmol) was added to the solution. Mixture was warmed to 150° C. and held with stirring for 1.5 hours. Mixture was cooled to room temperature and then diluted with ethyl acetate. Material was washed twice with water and the aqueous phase was discarded. Material was washed with brine and the aqueous phase was discarded. Organics were dried MgSO4, filtered and then concentrated to dryness. Silica gel chromatography eluting ethyl acetate-hexanes afforded the title compound as clear colorless oil in 88% yield. MS (M+H)+=491.0.

reactant | (S)-Diethyl 2-((4-(acetoxymethyl)-7-bromo-1H-indazol-5-yl)methyl)succinate | 0.879 mmol, 400 mg | C(C)(=O)OCC1=C2C=NNC2=C(C=C1C[C@H](C(=O)OCC)CC(=O)OCC)Br | C19H23BrN2O6
reactant | N-Chlorosuccinimide | 0.974 mmol, 130 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | N,N-dimethylformamide | 5.0 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-diethyl 2-((4-(acetoxymethyl)-7-bromo-3-chloro-1H-indazol-5-yl)methyl)succinate | 88% yield | C(C)(=O)OCC1=C2C(=NNC2=C(C=C1C[C@H](C(=O)OCC)CC(=O)OCC)Br)Cl | C19H22BrClN2O6
